US04772600
2-(4-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole) in dry dimethylformamide (75 ml) was cooled in an ice bath and oxalyl chloride (2.2 g, 0.0172 mole) was added dropwise, with stirring, under nitrogen. The reaction mixture was stirred at room temperature for 3.5 hours and then N,N,N'-trimethyl-1,4-benzenediamine (2.9 g, 0.0193 mole) was added dropwise. The reaction mixture was stirred at room temperature under nitrogen overnight, poured into 400 ml of ice water and made basic with triethylamine (6 ml). The resulting white solid was collected by filtration, dissolved in hot isopropyl alcohol, treated with charcoal, and filtered while hot. Water was added to the cloud point and upon cooling, a solid precipitated. The gray solid was collected by filtration and rinsed with water to yield 6.6 g (92%) of product. A 1.0-g sample was dried under high vacuum to give 0.6 g of title compound, mp 152°-155° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | oxalyl chloride | 0.0172 mole, 2.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N,N'-trimethyl-1,4-benzenediamine | 0.0193 mole, 2.9 g | CN(C1=CC=C(C=C1)NC)C | C9H14N2
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 6.6 g, 92% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C)C1=CC=C(C=C1)N(C)C | C23H22ClN5O
